US07871982B2
5-Phenyl-1,3,4-thiadiazole-2-thiol
Phosphorus oxychloride (7 ml) was added to 3.67 g (30 mmol) of benzoic acid and 2.73 g (30 mmol) of thiosemicarbazide, and the mixture was stirred at 80° C. for one hr. The reaction solution was added dropwise to 500 ml of a saturated aqueous sodium hydrogencarbonate solution. The resultant precipitate was collected by filtration and was dried. The dried precipitate was suspended in 20 ml of acetonitrile. Cupric chloride (6 g, 45 mmol) and 5.3 g (45 mmol) of tert-butyl nitrite were added to the suspension, and the mixture was stirred at room temperature for 3 hr. The solvent was removed by distillation. Ethyl acetate (100 ml) was added to the residue, and the mixture was washed with 30 ml of 1 N hydrochloric acid and 50 ml of distilled water in that order. The solvent was removed by distillation. The residue was dissolved in 20 ml of ethanol, 3.4 g (45 mmol) of thiourea was added to the solution, and the mixture was heated under reflux for 3 hr. The solvent was removed by distillation, 100 ml of ethyl acetate was added to the residue, and the mixture was washed with 50 ml of distilled water. The solvent was removed by distillation, and the residue was then purified by column chromatography on silica gel (chloroform:methanol=30:1) to give 3.17 g (yield 55%) of the title compound.

reactant | Phosphorus oxychloride | 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzoic acid | 30 mmol, 3.67 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | thiosemicarbazide | 30 mmol, 2.73 g | NNC(=S)N | CH5N3S
reactant | tert-butyl nitrite | 45 mmol, 5.3 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | thiourea | 45 mmol, 3.4 g | NC(=S)N | CH4N2S
solvent | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
product | 5-Phenyl-1,3,4-thiadiazole-2-thiol | 3.17 g, yield 55% | C1(=CC=CC=C1)C1=NN=C(S1)S | C8H6N2S2
